US07141586B2
N-{Trans-4-[({5-fluoro-2-[3-(methylsulfanyl)phenoxy]-3-pyridinyl}carbonyl)amino]cyclohexyl}-2-pyridinecarboxamide
A solution of N-(trans-4-amino-cyclohexyl)-5-fluoro-2-(3-methylsulfanyl-phenoxy)-nicotinamide hydrochloride (250 mg, 0.666 mmol) in dimethylformamide (5 ml) and triethylamine (278 μl, 2.0 mmol) was treated with 2-pyridine carboxylic acid (90 mg, 0.73 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (141 mg, 0.73 mmol) and 1-hydroxybenzotriazole (99 mg, 0.73 mmol). The reaction was stirred under nitrogen at room temperature for 18 h and the solvent was removed under reduced pressure. The residue was partitioned between sat. sodium hydrogen carbonate solution (10 ml) and ethyl acetate (15 ml) and the aqueous phase was extracted with ethyl acetate (3×15 ml). The combined organic extracts were washed with water (2×10 ml), brine (10 ml), dried over MgSO4 and the solvent was removed under reduced pressure to give the title compound (175 mg) as a white solid.

reactant | N-(trans-4-amino-cyclohexyl)-5-fluoro-2-(3-methylsulfanyl-phenoxy)-nicotinamide hydrochloride | 0.666 mmol, 250 mg | Cl.N[C@@H]1CC[C@H](CC1)NC(C1=C(N=CC(=C1)F)OC1=CC(=CC=C1)SC)=O
reactant | triethylamine | 2.0 mmol, 278 μl | C(C)N(CC)CC | C6H15N
reactant | 2-pyridine carboxylic acid | 0.73 mmol, 90 mg | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.73 mmol, 141 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.73 mmol, 99 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | N-{Trans-4-[({5-fluoro-2-[3-(methylsulfanyl)phenoxy]-3-pyridinyl}carbonyl)amino]cyclohexyl}-2-pyridinecarboxamide | 175 mg | FC=1C=C(C(=NC1)OC1=CC(=CC=C1)SC)C(=O)N[C@@H]1CC[C@H](CC1)NC(=O)C1=NC=CC=C1 | C25H25FN4O3S
